US08633200B2
To a stirred yellow solution of methyl 2-(2-(3-chlorophenyl)-7-isopropyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate (0.103 g, 0.277 mmol) in anhydrous toluene (5 mL) was added 1.1M (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole/toluene (0.101 ml, 0.111 mmol). The mixture was cooled to −35° C. and a solution of 1M catechoborane/THF (0.388 ml, 0.388 mmol) was added over 10 min. After 30 min, the reaction mixture was slowly warmed to −15 C and diluted with EtOAc (5 mL) and sat. Na2CO3 (2 mL). The mixture was stirred vigorously for 30 min, and the organic phase washed with sat Na2CO3 (2×5 mL), dried (Na2SO4), filtered, concentrated and the residue was purified by prep-HPLC to give (S)-methyl 2-(2-(3-chlorophenyl)-7-isopropyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate (0.0693 g, 0.185 mmol, 66.9% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ: 7.99 (t, J=1.5 Hz, 1H), 7.86 (dt, J=7.4, 1.5 Hz, 1H), 7.41-7.33 (m, 2H), 6.80 (s, 1H), 5.63 (s, 1H), 3.81 (s, 3H), 3.40 (br. s., 1H), 2.62 (s, 3H), 1.68 (d, J=7.0 Hz, 3H), 1.59 (d, J=7.0 Hz, 3H). LCMS (M+H) calcd for C19H21ClN3O3: 374.13. found: 374.2.

reactant | methyl 2-(2-(3-chlorophenyl)-7-isopropyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate | 0.277 mmol, 0.103 g | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2C(C)C)C(C(=O)OC)=O)C)=C1 | C19H18ClN3O3
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole toluene | 0.111 mmol, 1.1M, 0.101 ml | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2.C1(=CC=CC=C1)C
reactant | THF | 0.388 mmol, 0.388 ml | C1CCOC1 | C4H8O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | Na2CO3 | 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | (S)-methyl 2-(2-(3-chlorophenyl)-7-isopropyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 0.185 mmol, 0.0693 g, 66.9% yield | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2C(C)C)[C@@H](C(=O)OC)O)C)=C1 | C19H20ClN3O3
